US05478936
1-phenyl-2-propylamine.
Among them, particularly preferable are ammonia, ethylamine, taurine, N-methyltaurine, methylamine, n-propylamine, monoethanolamine, β-alanine, 2-chloroethylamine, 2-sulfatoethylamine, aniline, aniline-2-, -3- or -4-sulfonic acid, 2-, 3- or 4-carboxyaniline, N-methylaniline, N-ethylaniline, N-ethyl-2-, -3- or -4-chloroaniline, aniline-2,4- or -2,5-disulfonic acid, 2-, 3- or 4-chloroaniline, 2-, 3- or 4-methylaniline, 3- or 4-methylaminobenzenesulfonic acid, and the like.

reactant | ammonia | N | H3N
reactant | ethylamine | C(C)N | C2H7N
reactant | taurine | NCCS(=O)(=O)O | C2H7NO3S
reactant | N-methyltaurine | CNCCS(=O)(=O)O | C3H9NO3S
reactant | methylamine | CN | CH5N
reactant | n-propylamine | C(CC)N | C3H9N
reactant | monoethanolamine | C(O)CN | C2H7NO
reactant | β-alanine | NCCC(=O)O | C3H7NO2
reactant | 2-chloroethylamine | ClCCN | C2H6ClN
reactant | aniline | NC1=CC=CC=C1 | C6H7N
reactant | N-methylaniline | CNC1=CC=CC=C1 | C7H9N
reactant | N-ethylaniline | C(C)NC1=CC=CC=C1 | C8H11N
product | 1-phenyl-2-propylamine | C1(=CC=CC=C1)CC(C)N | C9H13N
